US06596738B1
To an ice cooled solution of 1-[2-((4S)-2,2-dimethyl-1,3-dioxolan-4-yl)ethyl]-1H-indole (520 mg, 2.12 mmol) in THF (10 ml) was added portionwise 1N-HCl (8.48 ml). After the addition was completed, the reaction mixture was stirred at room temperature for 2.5 hours. An aqueous solution of NaHCO3 was added, and the resulting mixture was stirred for several minutes. The mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried (magnesium sulfate) and concentrated in vacuo to give (S)-4-(1-indolyl)-butane-1,2-diol (449.3 mg, 103%) as an oil. This material was used immediately without further purification. To an ice cooled solution of (S)-4-(1-indolyl)-butane-1,2-diol in DMF (10 ml) was added imidazole (433 mg, 6.36 mmol) followed by tert-butyldimethylsilylchloride (335 mg, 2.23 mmol). After 30 minutes, the ice-bath was removed and then the mixture was stirred overnight at room temperature. The reaction mixture was poured into water (100 ml) and extracted with ethyl acetate. The organic layer was washed with brine, dried (magnesium sulfate), and concentrated in vacuo. The residue was purified by silica gel (15 g) column chromatography eluting with hexane/ethyl acetate (20:1) to give (S)-[1-(tert-butyldimethylsilyloxy)-4-(1-indolyl)]-butan-2-ol (542 mg, 80.0%) as a colorless oil.

reactant | 1-[2-((4S)-2,2-dimethyl-1,3-dioxolan-4-yl)ethyl]-1H-indole | 2.12 mmol, 520 mg | CC1(OC[C@@H](O1)CCN1C=CC2=CC=CC=C12)C | C15H19NO2
reactant | HCl | 8.48 ml | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (S)-4-(1-indolyl)-butane-1,2-diol | 449.3 mg, 103% | N1(C=CC2=CC=CC=C12)CC[C@@H](CO)O | C12H15NO2
